US03962259
Reaction of 2,3,4,5,6,7-hexahydro-1-methylazepin-4-one and 2-(2-bromophenyl)-4,4-dimethyl-2-oxazoline by the method described in Example 1c provides 4-[2-(4,4-dimethyl-2-oxazolin-2-yl)phenyl]-2,3,4,5,6,7-hexahydro-4-hydroxy-1-methylazepine.

reactant | 2,3,4,5,6,7-hexahydro-1-methylazepin-4-one | CN1CCC(CCC1)=O | C7H13NO
reactant | 2-(2-bromophenyl)-4,4-dimethyl-2-oxazoline | BrC1=C(C=CC=C1)C=1OCC(N1)(C)C | C11H12BrNO
product | 4-[2-(4,4-dimethyl-2-oxazolin-2-yl)phenyl]-2,3,4,5,6,7-hexahydro-4-hydroxy-1-methylazepine | CC1(N=C(OC1)C1=C(C=CC=C1)C1(CCN(CCC1)C)O)C | C18H26N2O2
